US06057335
Preparation of 5-(4-methoxyphenyl)-3-(5-phenylindan-2-yl)carbonylaminopyrazole.
3-(5-Bromoindan-2-yl)carbonylamino-5-(4-methoxyphenyl)pyrazole (50 mg), tributylphenyltin (0.12 ml), a tris(dibenzylideneacetone)dipalladium chloroform complex (6 mg), tri-2-furylphosphine (11 mg) and lithium chloride (25 mg) were dissolved in N-methylpyrrolidone (1 ml) with heating, and the mixture was heated at 85° C. overnight. After allowing to cool, the reaction solution was concentrated under a reduced pressure. The residue was dissolved in ethyl acetate-hexane (1:1, 30 ml) and the solution was washed with saturated aqueous potassium fluoride solution and dried over anhydrous magnesium sulfate. The solvent was distilled away under a reduced pressure. The resultant residue was purified by preparative thin layer chromatography (chloroform: methanol=20:1) to obtain the title compound (4.4 mg).

reactant | 3-(5-Bromoindan-2-yl)carbonylamino-5-(4-methoxyphenyl)pyrazole | 50 mg | BrC=1C=C2CC(CC2=CC1)C(=O)NC1=NNC(=C1)C1=CC=C(C=C1)OC | C20H18BrN3O2
reactant | tributylphenyltin | 0.12 ml | C(CCC)[Sn](C1=CC=CC=C1)(CCCC)CCCC
reactant | tri-2-furylphosphine | 11 mg | O1C(=CC=C1)P(C=1OC=CC1)C=1OC=CC1 | C12H9O3P
reactant | lithium chloride | 25 mg | [Cl-].[Li+]
solvent | N-methylpyrrolidone | 1 ml | CN1C(CCC1)=O | C5H9NO
product | 5-(4-methoxyphenyl)-3-(5-phenylindan-2-yl)carbonylaminopyrazole | 4.4 mg | COC1=CC=C(C=C1)C1=CC(=NN1)NC(=O)C1CC2=CC=C(C=C2C1)C1=CC=CC=C1 | C26H23N3O2
